US06348032B1
N,N-dimethylformamide (10 ml), 4-nitrobenzyl bromide (3.24 g), and sodium bicarbonate (2.52 g) are added to 2-methyl-5-[(2-pyridylmethyl)carbamoyl]benzimidazole (3.56 g), and the solution is heated for two hours at 80° C. Chloroform and water are added to the reaction solution and layers are separated. After the organic layer is concentrated under reduced pressure, it is purified through silica gel column chromatography (eluate: ethyl acetate/methanol=4/1), and a mixture of 2-methyl-1-(4-nitrobenzyl)-6-[(2-pyridylmethyl)carbamoyl]benzimidazole and 2-methyl-1-(4-nitrobenzyl)-5-[(2-pyridylmethyl)carbamoyl]benzimidazole is obtained. Further, the position isomers in this mixture are separated through medium pressure silica gel column chromatography (eluate: ethyl acetate/methanol=85/15). Each is recrystallized in a mixed solvent of chloroform and diethylether, and thus, 2-methyl-1-(4-nitrobenzyl)-6-[(2-pyridylmethyl)carbamoyl]benzimidazole (1.37 g) (191) and 2-methyl-1-(4-nitrobenzyl)-5-[(2-pyridylmethyl)carbamoyl]benzimidazole (1.19 g) (192) are obtained.

reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | 4-nitrobenzyl bromide | 3.24 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | sodium bicarbonate | 2.52 g | C([O-])(O)=O.[Na+]
reactant | 2-methyl-5-[(2-pyridylmethyl)carbamoyl]benzimidazole | 3.56 g | CC=1NC2=C(N1)C=CC(=C2)C(NCC2=NC=CC=C2)=O | C15H14N4O
solvent | water | O | H2O
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-methyl-1-(4-nitrobenzyl)-5-[(2-pyridylmethyl)carbamoyl]benzimidazole | CC1=NC2=C(N1CC1=CC=C(C=C1)[N+](=O)[O-])C=CC(=C2)C(NCC2=NC=CC=C2)=O | C22H19N5O3
